US04727081
N-Methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarbothioamide
1.62 g (5 mmol) of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carbothioamide are dissolved in 30 ml of THF, 0.44 g (6 mmol) of methyl isothiocyanate are added, and the reaction mixture is left to stand overnight at room temperature. Ether is added to complete precipitation and the precipitate formed is suction filtered, washed with ether and recrystallised from ethanol. The analytical values are summarized in Table I.

reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carbothioamide | 5 mmol, 1.62 g | N1(CCCCC1)CC=1C=C(OCCCNC(=S)NN)C=CC1 | C16H26N4OS
reactant | methyl isothiocyanate | 6 mmol, 0.44 g | CN=C=S | C2H3NS
reactant | Ether | CCOCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-Methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarbothioamide | CNC(=S)NNC(NCCCOC1=CC(=CC=C1)CN1CCCCC1)=S | C18H29N5OS2
